US05369121
Step A: 4-Chloro-2-(3-methyl-2-methylenebutoxy)benzaldehyde
To a solution of 8.8 g (0.064 mol) of potassium carbonate in 100 mL of dimethylformamide was added 10.0 g (0.064 mol) of 4-chlorosalicylaldehyde and 12.5 g (0.077 mol) of 2-(bromomethyl)-3-methyl-1-butene. The reaction mixture was heated at 70° C. for 2 hours, cooled to room temperature and poured into 600 mL ice/water. The crude mixture was extracted with ethyl acetate (3×100 mL). The ethyl acetate was washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to afford 14.0 g of a yellow oil.

reactant | potassium carbonate | 0.064 mol, 8.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorosalicylaldehyde | 0.064 mol, 10.0 g | ClC=1C=C(C(C=O)=CC1)O | C7H5ClO2
reactant | 2-(bromomethyl)-3-methyl-1-butene | 0.077 mol, 12.5 g | BrCC(=C)C(C)C | C6H11Br
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2-(3-methyl-2-methylenebutoxy)benzaldehyde | 14.0 g | ClC1=CC(=C(C=O)C=C1)OCC(C(C)C)=C | C13H15ClO2
